US08378104B2
Step H: 3-bromothieno[2,3-c]pyridin-5-ol
A mixture of 3-bromothieno[2,3-c]pyridin-5-yl trifluoromethanesulfonate (145 mg, 0.400 mmol), lithium hydroxide monohydrate (173 mg, 4.00 mmol) and dimethyl sulfoxide (10 mL) was heated at 75° C. for 2.5 h. The solvent was removed and the residue was neutralized with aqueous 2 N HCl. The residue was then extracted with 30% n-BuOH:EtOAc (3×50 mL). The combined organic extracts were washed with water (2×10 mL) and brine (10 mL), dried over MgSO4, and concentrated in vacuo to afford 92 mg (100%) of the title compound as a yellow solid. MS (ESI): 230.01, 231.97 [M+H]+; HPLC tR=2.46 min (ZQ3: polar—5 min).

reactant | 3-bromothieno[2,3-c]pyridin-5-yl trifluoromethanesulfonate | 0.400 mmol, 145 mg | FC(S(=O)(=O)OC=1C=C2C(=CN1)SC=C2Br)(F)F | C8H3BrF3NO3S2
reactant | lithium hydroxide monohydrate | 4.00 mmol, 173 mg | O.[OH-].[Li+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 3-bromothieno[2,3-c]pyridin-5-ol | 92 mg, 100% | BrC1=CSC2=CN=C(C=C21)O | C7H4BrNOS
